US04959364
Preparation of 1-[3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-2-methyl-1-oxopropyl]pyrrolidine
Following the procedure of Example 4, 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (2.0 g, 0.008 mole) and 1-(2-methyl-1-oxo-2-propenyl)pyrrolidine (1.11 g, 0.008 mole) were dissolved in toluene (20 ml) under an argon atmosphere and refluxed for 24 hours. The solvent was removed and the product purified by chromatography on silica, and recrystallized from hexane to yield the product as a white solid (0.65 g), m.p. 125°-126° C.

reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.008 mole, 2.0 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 1-(2-methyl-1-oxo-2-propenyl)pyrrolidine | 0.008 mole, 1.11 g | CC(C(=O)N1CCCC1)=C | C8H13NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-2-methyl-1-oxopropyl]pyrrolidine | 0.65 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCC(C(=O)N1CCCC1)C | C22H35NO2S
